US08754073B2
10.3 2-ethyl-5-fluoro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
2.83 g 2-ethyl-5-fluoro-1H-indole are suspended in 50 ml acetic acid and heated to 90° C. A suspension of 6.66 g 4-piperidone in 15 ml phosphoric acid 2N is added. The reaction mixture is stirred for 3 hours at 90° C., combined with sodium hydroxide solution and the product is extracted with ethyl acetate. 2.85 g product are obtained as a solid.

reactant | 2-ethyl-5-fluoro-1H-indole | 2.83 g | C(C)C=1NC2=CC=C(C=C2C1)F | C10H10FN
reactant | 4-piperidone | 6.66 g | N1CCC(CC1)=O | C5H9NO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | phosphoric acid | 2N, 15 ml | P(O)(O)(O)=O | H3O4P
product | 2-ethyl-5-fluoro-3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 2.85 g | C(C)C=1NC2=CC=C(C=C2C1C=1CCNCC1)F | C15H17FN2
